US06495546B1
To a solution of guanidine hydrochloride (463 mg) in N,N-dimethylformamide (20 ml) was added 28% sodium ethoxide (0.22 ml) under ice-cooling, and the mixture was stirred at room temperature for 5 minutes. To the resulting mixture was added 2-[8-[(2S)-2-hydroxy-3-phenoxypropyl]amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester (400 mg). After being stirred at room temperature for 2 hours, the precipitates were collected by filtration and treated with 4N hydrogen chloride in ethyl acetate to afford N-[2-[8-[(2S)-2-hydroxy-3-phenoxypropyl]amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetyl]guanidine hydrochloride (243 mg).

reactant | guanidine hydrochloride | 463 mg | Cl.NC(=N)N
reactant | sodium ethoxide | 0.22 ml | [O-]CC.[Na+]
reactant | 2-[8-[(2S)-2-hydroxy-3-phenoxypropyl]amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid ethyl ester | 400 mg | C(C)OC(COC=1C=CC2=C(CC(CCC2)NC[C@@H](COC2=CC=CC=C2)O)C1)=O | C24H31NO5
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-[2-[8-[(2S)-2-hydroxy-3-phenoxypropyl]amino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetyl]guanidine hydrochloride | 243 mg | Cl.O[C@@H](CNC1CCCC2=C(C1)C=C(C=C2)OCC(=O)NC(=N)N)COC2=CC=CC=C2 | InChI=1S/C23H30N4O4.ClH/c24-23(25)27-22(29)15-31-21-10-9-16-5-4-6-18(11-17(16)12-21)26-13-19(28)14-30-20-7-2-1-3-8-20;/h1-3,7-10,12,18-19,26,28H,4-6,11,13-15H2,(H4,24,25,27,29);1H/t18?,19-;/m0./s1
